US07700594B2
1-(1H-Indol-2-yl)-3-piperidin-4-ylimidazo[1,5-a]pyrazin-8-amine
A solution of benzyl 4-[8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]piperidine-1-carboxylate (3.61 g, 0.00774 mol) in conc. HCl (100 ml) was stirred at rt overnight. The mixture was then diluted with water (200 mL), washed with Et2O (2×30 mL) then the aqueous layer concentrated in vacuo yielding 2.62 g of desired product as the trihydrochloride salt. 1H NMR (400 MHz, MeOD): δ 2.19-2.32 (m, 4H), 3.26-3.30 (m, 2H), 3.53-3.36 (m, 2H), 3.70 (m, 1H), 7.06 (d, J=5.6 Hz, 1H), 7.10-7.14 (m, 1H), 7.23-7.26 (m, 2H), 7.50-7.52 (m, 1H), 7.67 (m, 1H), 7.93 (m, 1H). MS (ES+): m/z 333.27 [MH+].

reactant | benzyl 4-[8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]piperidine-1-carboxylate | 0.00774 mol, 3.61 g | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C27H26N6O2
solvent | HCl | 100 ml | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 1-(1H-Indol-2-yl)-3-piperidin-4-ylimidazo[1,5-a]pyrazin-8-amine | 2.62 g | N1C(=CC2=CC=CC=C12)C=1N=C(N2C1C(=NC=C2)N)C2CCNCC2 | C19H20N6
